US04379788
(a) 2-(4-Acetoxy-phenyl)-6-methoxy-3,1-benzoxazin-4-one
16.7 gm (0.1 mol) of 3-methoxy-anthranilic acid were dissolved in 100 ml of pyridine, and the solution was mixed, while cooling and stirring, with 23.8 gm (0.1 mol+20%) of 4-acetoxy-benzoyl chloride. After 2 hours the reaction was finished, and the reaction mixture was poured into ice water. The crystalline precipitate thus formed was suction filtered off, dried and recrystallized from methanol.

reactant | 3-methoxy-anthranilic acid | 0.1 mol, 16.7 gm | COC1=C(C(C(=O)O)=CC=C1)N | C8H9NO3
reactant | 4-acetoxy-benzoyl chloride | 0.1 mol, 23.8 gm | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Acetoxy-phenyl)-6-methoxy-3,1-benzoxazin-4-one | C(C)(=O)OC1=CC=C(C=C1)C1=NC2=C(C(O1)=O)C=C(C=C2)OC | C17H13NO5
